US04478842
Aniline (2.79 g, 2.73 ml), 6.27 g of methyl 6-bromohexanoate and 12.24 g (0.09 mole) of sodium acetate trihydrate are heated at 80°-100° overnight in 15 ml of absolute ethanol. After cooling, the mixture is poured into 75 ml of ice-water and extracted with ether. The organic extract is washed with water, dried over magnesium sulfate and evaporated in vacuo to give N-(5-methoxycarbonylpentyl)aniline.

reactant | Aniline | 2.73 ml, 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | methyl 6-bromohexanoate | 6.27 g | BrCCCCCC(=O)OC | C7H13BrO2
reactant | sodium acetate trihydrate | 0.09 mole, 12.24 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(5-methoxycarbonylpentyl)aniline | COC(=O)CCCCCNC1=CC=CC=C1 | C13H19NO2
